US07834043B2
tert-butyl(2S)-2-[(2-ethoxy-2-oxoethyl)amino]-3,3-dimethylbutanoate
A solution of L-tert-leucine tert-butyl ester hydrochloride (5 g, 22.34 mmol) in DMF (25 mL) was treated with triethylamine (3.1 mL, 22.34 mmol) and the mixture was stirred for 1 hour. The reaction was filtered to remove solid salts, and the filtrate was treated with triethylamine (9.3 mL, 67.0 mmol) and ethyl bromoacetate (9.9 mL, 67.0 mmol), and the reaction was stirred for 3 hours at 25° C. The solvent was concentrated and the reaction was partitioned between dichloromethane and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel eluting with 0-20% ethyl acetate/hexane to give the title compound (5.47 g, 90% yield).

reactant | L-tert-leucine tert-butyl ester hydrochloride | 22.34 mmol, 5 g | Cl.C(C)(C)(C)OC([C@@H](N)C(C)(C)C)=O
reactant | triethylamine | 22.34 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 67.0 mmol, 9.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 67.0 mmol, 9.9 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | tert-butyl(2S)-2-[(2-ethoxy-2-oxoethyl)amino]-3,3-dimethylbutanoate | 5.47 g, 90% yield | C(C)OC(CN[C@H](C(=O)OC(C)(C)C)C(C)(C)C)=O | C14H27NO4
